US05559105
d) 2-n-Butyl-5-(2-ethoxycarbonylmethoxy-4-methoxythiobenzoyl)-1-trimethylsilylethyloxymethoxy-1H-imidazole
2-n-Butyl-5-(2-ethoxycarbonylmethoxy-4-methoxybenzoyl)-1-trimethylsilylethyloxymethoxy-1H-imidazole(475 mg, 0.97 mmol) dissolved in toluene (5 ml) was mixed with 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (Lawesson's reagent) (215 mg, 0.532 mmol) and the solution heated to 80° for 1 h under argon. The reaction was cooled and the toluene solution applied directly to a silica gel column. Elution with 25-30% EtOAc/hexanes afforded the title compound as a deep purple-blue oil. (316 mg, 64% ).

reactant | 2-n-Butyl-5-(2-ethoxycarbonylmethoxy-4-methoxybenzoyl)-1-trimethylsilylethyloxymethoxy-1H-imidazole | 0.97 mmol, 475 mg | C(CCC)C=1N(C(=CN1)C(C1=C(C=C(C=C1)OC)OCC(=O)OCC)=O)OCOC(C)[Si](C)(C)C | C25H38N2O7Si
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 0.532 mmol, 215 mg | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-n-Butyl-5-(2-ethoxycarbonylmethoxy-4-methoxythiobenzoyl)-1-trimethylsilylethyloxymethoxy-1H-imidazole | C(CCC)C=1N(C(=CN1)C(C1=C(C=C(C=C1)OC)OCC(=O)OCC)=S)OCOC(C)[Si](C)(C)C | C25H38N2O6SSi
